US07897619B2
(2S)-1-(4-(Isoquinolin-6-yl)-1H-pyrazol-1-yl)-3-(4-(trifluoromethyl)phenyl)-propan-2-amine:
A mixture of tert-butyl(S)-3-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (90 mg, 0.18 mmol) and TFA (5.00 mL, 64 mmol) in DCM (5 mL) was stirred at room temperature for 2 hours. After concentration by vacuum distillation, the residue was purified by reverse-phase HPLC (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 mL/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 minute gradient) to give the product as an off-white solid (41 mg, 57%). HRMS (TOF) Calcd for C22H20F3N4+: 397.1635, found: 397.1642.

reactant | tert-butyl(S)-3-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.18 mmol, 90 mg | C1=NC=CC2=CC(=CC=C12)C=1C=NN(C1)C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C27H27F3N4O2
reactant | TFA | 64 mmol, 5.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-(4-(Isoquinolin-6-yl)-1H-pyrazol-1-yl)-3-(4-(trifluoromethyl)phenyl)-propan-2-amine | 41 mg, 57% | C1=NC=CC2=CC(=CC=C12)C=1C=NN(C1)C[C@H](CC1=CC=C(C=C1)C(F)(F)F)N | C22H19F3N4
